US08071768B2
Methanesulfonic acid 3-{4-[1-(4-isopropoxy-phenylcarbamoyl)-piperidin-4-yl]-quinazolin-7-yloxy}-propyl ester
To 4-[7-(3-methanesulfonyloxy-propoxy)-quinazolin-4-yl]-piperidine-1-carboxylic acid tert-butyl ester (0.1 mmol), prepared as described in Example 115, was added 3M HCl/MeOH (2 mL) and the mixture was stirred at rt for 2 h and then concentrated in vacuo and the residue was dissolved in a 1:1 mixture of DCM:MeOH, neutralized with excess Et3N and treated with (4-isopropoxy-phenyl)-carbamic acid 4-nitrophenyl ester (0.11 mmol), which was prepared as described in Example 1a. The mixture was stirred at rt overnight and then concentrated in vacuo and partitioned between water and DCM. DCM layer was drawn off, washed with water thrice, then dried over anhydrous MgSO4, filtered and concentrated in vacuo. The residue was purified by Preparative TLC (silica gel; DCM:MeOH; 9.5:0.5) to obtain 40 mg (75%) of the title compound. 1H-NMR (300 MHz, CDCl3): 9.12 (s, 1H), 8.05 (d, 1H), 7.32-7.20 (m, 4H), 6.81 (d, 2H), 6.53 (s, 1H), 4.50-4.40 (m, 3H), 4.25 (t, 4H), 3.72-3.59 (m, 1H), 3.16-3.03 (m, 2H), 3.01 (s, 3H), 2.36-2.26 (m, 2H), 2.18-2.00 (m, 2H), 1.99-1.87 (m, 2H), 1.29 (d, 6H). LC/MS (ESI): 543.1 (MH)+.

reactant | 4-[7-(3-methanesulfonyloxy-propoxy)-quinazolin-4-yl]-piperidine-1-carboxylic acid tert-butyl ester | 0.1 mmol | C(C)(C)(C)OC(=O)N1CCC(CC1)C1=NC=NC2=CC(=CC=C12)OCCCOS(=O)(=O)C | C22H31N3O6S
reactant | HCl MeOH | 3M, 2 mL | Cl.CO
reactant | (4-isopropoxy-phenyl)-carbamic acid 4-nitrophenyl ester | 0.11 mmol | [N+](=O)([O-])C1=CC=C(C=C1)OC(NC1=CC=C(C=C1)OC(C)C)=O | C16H16N2O5
product | Methanesulfonic acid 3-{4-[1-(4-isopropoxy-phenylcarbamoyl)-piperidin-4-yl]-quinazolin-7-yloxy}-propyl ester | 40 mg, 75% | C(C)(C)OC1=CC=C(C=C1)NC(=O)N1CCC(CC1)C1=NC=NC2=CC(=CC=C12)OCCCOS(=O)(=O)C | C27H34N4O6S
